US07074801B1
6-Bromoimidazo[1,2-a]pyridine-3-carbonitrile
Method 1) 3.83 g of 6-bromo-2,3-dihydroimidazo[1,2-a]pyridine-3-carbonitrile synthesized in Production Example 242 was dissolved in 34 mL 1,4-dioxane, and the solution together with 4.3 g of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone was heated at 90° C. for 2 hours. The reaction solution was diluted with ethyl acetate, insolubles were filtered off with Celite, and the filtrate was washed with an aqueous saturated sodium bicarbonate solution and brine. The organic layer was dried over anhydrous sodium sulfate and filtered through NH silica gel. The solvent was removed, whereby 3.24 g of the title compound (brown solid) was obtained.

reactant | 6-bromo-2,3-dihydroimidazo[1,2-a]pyridine-3-carbonitrile | 3.83 g | BrC=1C=CC=2N(C1)C(CN2)C#N | C8H6BrN3
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 4.3 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | 1,4-dioxane | 34 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Bromoimidazo[1,2-a]pyridine-3-carbonitrile | 3.24 g | BrC=1C=CC=2N(C1)C(=CN2)C#N | C8H4BrN3
